US06610694B1
Production of 6-(2-Oxiranylmethoxy)[1,2,4]triazolo[4,3-b]pyridazine
12.0 g of 2-oxiranylmethanol and 2.50 g of 6-chloro[1,2,4]triazolo[4,3-b]pyridazine were dissolved in 40 ml of N,N-dimethylformamide; under ice cooling, 713 mg of 60% oily sodium hydride was added, followed by stirring at room temperature for 30 minutes. After cold saline was added, the reaction mixture was extracted with ethyl acetate-tetrahydrofuran (1:1) and dried over magnesium sulfate. After concentration under reduced pressure, the residue was subjected to silica gel column chromatography and eluted with ethyl acetate-methanol (10:1). The desired fraction was collected and concentrated under reduced pressure; the precipitated crystal was washed with diethyl ether and dried to yield 1.02 g of the title compound.

reactant | 2-oxiranylmethanol | 12.0 g | O1C(C1)CO | C3H6O2
reactant | 6-chloro[1,2,4]triazolo[4,3-b]pyridazine | 2.50 g | ClC=1C=CC=2N(N1)C=NN2 | C5H3ClN4
reactant | sodium hydride | 713 mg | [H-].[Na+]
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 6-(2-Oxiranylmethoxy)[1,2,4]triazolo[4,3-b]pyridazine | 1.02 g | O1C(C1)COC=1C=CC=2N(N1)C=NN2 | C8H8N4O2
